US03971650
A mixture of 4.5 g (0.0125 mol) N1 -methyl-3,5-dinitro-N4,N4 -dipropylsulfanilamide, 3.4 g (0.025 mol) n-butyl chloroformate, 3.5 g (0.25 mol) potassium carbonate and 50 ml dimethoxyethane was reacted to produce N1 -butoxycarbonyl-N1 -methyl-3,5-dinitro-N4,N4 -dipropylsulfanilamide by a procedure similar to that of Example 4. The product was a yellow-orange solid having a melting point of 99°-101°C.

reactant | N1 -methyl-3,5-dinitro-N4,N4 -dipropylsulfanilamide | 0.0125 mol, 4.5 g | CNS(=O)(C1=CC(=C(C(=C1)[N+](=O)[O-])N(CCC)CCC)[N+](=O)[O-])=O | C13H20N4O6S
reactant | n-butyl chloroformate | 0.025 mol, 3.4 g | ClC(=O)OCCCC | C5H9ClO2
reactant | potassium carbonate | 0.25 mol, 3.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
product | N1 -butoxycarbonyl-N1 -methyl-3,5-dinitro-N4,N4 -dipropylsulfanilamide | C(CCC)OC(=O)N(S(=O)(C1=CC(=C(C(=C1)[N+](=O)[O-])N(CCC)CCC)[N+](=O)[O-])=O)C | C18H28N4O8S
